US09163003B2
2-(3-bromo-2-oxopyrrolidin-1-yl)acetonitrile
To a solution of 2,4-dibromobutanoyl chloride (3.6 g, 14 mmol) in DCM (100 mL) and 2-aminoacetonitrile hydrochloride (1.3 g, 14 mmol) was added triethylamine (5.7 mL, 41 mmol) at 0° C. The mixture was stirred at ambient temperature for 24 h. To the resulting material was added methylene chloride and it was washed with water and then brine. The combined organic layers were dried over sodium sulfate, filtered, and the solvent was removed in vacuo. The resulting residue was taken up in toluene (130 mL) and at 0° C. was added sodium hydride (545 mg, 13.6 mmol, 60% in mineral oil) portion-wise over 20 minutes. The reaction was stirred at ambient temperature for 60 h. The mixture was diluted with ethyl acetate and then poured into ice water. The organic layer was separated, washed with brine, dried over sodium sulfate, and purified via flash column chromatography (ethyl acetate:hexane, 0:100 to 100:0) to provide a brown oil (730 mg, 26% yield). 1H NMR (400 MHz, CDCl3) δ 4.37-4.50 (m, 2H), 4.10-4.28 (m, 1H), 3.70 (dq, J=7.6, 2.0 Hz, 1H), 3.51-3.59 (m, 1H), 2.65-2.79 (m, J=7.0 Hz, 1H), 2.33-2.50 (m, 1H).

reactant | 2,4-dibromobutanoyl chloride | 14 mmol, 3.6 g | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
reactant | 2-aminoacetonitrile hydrochloride | 14 mmol, 1.3 g | Cl.NCC#N
reactant | triethylamine | 41 mmol, 5.7 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydride | 13.6 mmol, 545 mg | [H-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-bromo-2-oxopyrrolidin-1-yl)acetonitrile | 730 mg, 26% yield | BrC1C(N(CC1)CC#N)=O | C6H7BrN2O
